US07148236B2
A mixture of acetic acid (0.96 g) and formic acid (0.53 g) was heated under reflux for 2 hours. To this was added 3-chloro-4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylamine (265 mg) and heating continued for 1.5 hours. The crude mixture was placed on an SCX cartridge and eluted with methanol followed by 2M ammonia in methanol. The impure product was then subjected to flash chroamtography on silica gel (gradient elution with increasing percentage of methanol in chloroform) to yield material of 93% purity. Final clean up by preparative LC-MS gave 3-chloro-4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylformamide (40 mg)

reactant | acetic acid | 0.96 g | C(C)(=O)O | C2H4O2
reactant | 3-chloro-4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylamine | 265 mg | ClC=1C=C(C=CC1SC1CC2CCC(C1)N2C)N | C14H19ClN2S
solvent | formic acid | 0.53 g | C(=O)O | CH2O2
product | 3-chloro-4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenylformamide | 40 mg | ClC=1C=C(C=CC1SC1CC2CCC(C1)N2C)NC=O | C15H19ClN2OS
